US07115611B2
C] 2-Methyl-2-[3-(methyl-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetyl}-amino)-phenoxy]-propionic acid
0.50 g (0.97 mmol) of the above prepared 2-methyl-2-[3-(methyl-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetyl}-amino)-phenoxy]-propionic acid ethyl ester was dissolved in 15 ml of THF/MeOH=2:1. To the stirred solution was added 1.16 ml of a LiOH-solution (1 molar in water). After 6 hours, the reaction mixture was poured into crashed ice/HCl and extracted twice with CH2Cl2; the organic layers were washed with water, dried over magnesium sulfate, filtered and evaporated to give 0.47 g of pure title compound as colorless foam.

reactant | 2-methyl-2-[3-(methyl-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetyl}-amino)-phenoxy]-propionic acid ethyl ester | C(C)OC(C(C)(OC1=CC(=CC=C1)N(C(CC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O)C)C)=O | C28H29F3N2O4
reactant | LiOH | 1 molar, 1.16 ml | [Li+].[OH-]
solvent | THF MeOH | 15 ml | C1CCOC1.CO
product | 2-Methyl-2-[3-(methyl-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetyl}-amino)-phenoxy]-propionic acid | 0.47 g | CC(C(=O)O)(C)OC1=CC(=CC=C1)N(C(CC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O)C | C26H25F3N2O4
